US09353107B2
Step-ii: N-(5-(3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-(3-hydroxyprop oxy)phenyl)methanesulfonamide
A stirred solution of N-(5-(3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-(3-((4-methoxybenzyl)oxy)prop oxy)phenyl)methanesulfonamide (120 mg, 0.1 mmol), TFA/toluene (169 mg/3 mL) was heated to 80° C. for overnight. TLC showed reaction completion. Reaction mass was cooled to RT and solvents evaporated under reduced pressure. This afforded 60 mg of the crude titled compound. MS: m/z=718.2 (M+1).

reactant | N-(5-(3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-(3-((4-methoxybenzyl)oxy)prop oxy)phenyl)methanesulfonamide | 0.1 mmol, 120 mg | FC=1C=C(CN2N=C(C(=C2C)C2=CN(C3=NC=C(C=C32)C=3C=CC(=C(C3)NS(=O)(=O)C)OCCCOCC3=CC=C(C=C3)OC)S(=O)(=O)C3=CC=C(C)C=C3)C)C=CC1 | C44H44FN5O7S2
reactant | TFA toluene | 3 mL, 169 mg | C(=O)(C(F)(F)F)O.C1(=CC=CC=C1)C
product | N-(5-(3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-(3-hydroxyprop oxy)phenyl)methanesulfonamide | FC=1C=C(CN2N=C(C(=C2C)C2=CN(C3=NC=C(C=C32)C=3C=CC(=C(C3)NS(=O)(=O)C)OCCCO)S(=O)(=O)C3=CC=C(C)C=C3)C)C=CC1 | C36H36FN5O6S2
